US06784183B2
Step 1: 3-(3-Nitrophenyl)acrylonitrile
At 0° C., 75.5 g of diethyl cyanomethylphosphonate dissolved in tetrahydrofuran are poured into a suspension of sodium hydride in tetrahydrofuran. After 30 minutes' contact at ambient temperature, 56 g of 3-nitrobenzaldehyde dissolved in tetrahydrofuran are poured in. After 1 hour, hydrolysis is carried out with 300 ml of water and then the solvent is concentrated. Following extraction with dichloromethane, washing the organic phase with water, drying over magnesium sulphate and concentration, the precipitate is taken up in diethyl ether and filtered off.

reactant | diethyl cyanomethylphosphonate | 75.5 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | sodium hydride | [H-].[Na+]
reactant | 3-nitrobenzaldehyde | 56 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | water | 300 ml | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(3-Nitrophenyl)acrylonitrile | [N+](=O)([O-])C=1C=C(C=CC1)C=CC#N | C9H6N2O2
